US03937701
A mixture of 40 parts of 5-(4-amino-1-piperazinyl)-5H-dibenzo[a,d]cycloheptene-10-carbonitrile, 50 parts of 2-pyridinecarboxaldehyde, 3 parts of glacial acetic acid, and 400 parts of 2-propanol is heated at the boiling point under reflux for 5 hours, then refrigerated until precipitation is complete. Insoluble solids are removed by filtration, consecutively washed with absolute ethanol and hexane, and air-dried. Recrystallization of this material from a mixture of chloroform and hexane affords 5-[4-(2-pyridylmethylene)amino-1-piperazinyl]-5H-dibenzo[a,d]cycloheptene- 10-carbonitrile as a light tan solid which, dried in air, melts at 182.5°-184°.

reactant | 5-(4-amino-1-piperazinyl)-5H-dibenzo[a,d]cycloheptene-10-carbonitrile | NN1CCN(CC1)C1C2=C(C(=CC3=C1C=CC=C3)C#N)C=CC=C2 | C20H20N4
reactant | 2-pyridinecarboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-[4-(2-pyridylmethylene)amino-1-piperazinyl]-5H-dibenzo[a,d]cycloheptene- 10-carbonitrile | N1=C(C=CC=C1)C=NN1CCN(CC1)C1C2=C(C(=CC3=C1C=CC=C3)C#N)C=CC=C2 | C26H23N5
